US07186734B2
A solution of impure 4-bromomethyl-5-butyl-2-chloro-6-phenyl-pyrimidine (288 mg) and 4-{[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid methyl ester (190 mg, 0.606 mmol) in CH3CN containing K2CO3 (300 mg) is stirred at room temperature. The reaction is monitored by TLC until complete consumption of 4-bromomethyl-5-butyl-2-chloro-6-phenyl-pyrimidine (24 hours). The mixture is then diluted with CH2Cl2 and filtered. The filtrate is concentrated, and the resulting residue is purified by flash chromatography on silica gel. Elution with 5:1 hexanes-EtOAc followed by 4:1 hexanes-EtOAc affords 215 mg of pure 4-{[(5-butyl-2-chloro-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid methyl ester. 1H NMR (CDCl3, 300 MHz) δ 7.97 (d, J=8.1 Hz, 2H), 7.44–7.33 (m, 7H), 6.84 (s, 1H), 6.79 (s, 2H), 4.22 (s, 4H), 3.90 (s, 3H), 3.74 (s, 2H), 3.72 (s, 2H), 3.55 (s, 2H), 2.64–2.56 (m, 2H), 1.01 (m, 2H), 0.90 (sext, J=7.2 Hz, 2H), 0.61 (t, J=7.2 Hz, 3H) ppm. MS: m/z 572 [M+1].

reactant | 4-bromomethyl-5-butyl-2-chloro-6-phenyl-pyrimidine | 288 mg | BrCC1=NC(=NC(=C1CCCC)C1=CC=CC=C1)Cl | C15H16BrClN2
reactant | 4-{[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid methyl ester | 0.606 mmol, 190 mg | COC(C1=CC=C(C=C1)CNCC1=CC2=C(OCCO2)C=C1)=O | C18H19NO4
reactant | K2CO3 | 300 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | CC#N | C2H3N
product | 4-{[(5-butyl-2-chloro-6-phenyl-pyrimidin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-benzoic acid methyl ester | 215 mg | COC(C1=CC=C(C=C1)CN(CC1=CC2=C(OCCO2)C=C1)CC1=NC(=NC(=C1CCCC)C1=CC=CC=C1)Cl)=O | C33H34ClN3O4
